Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Mavik / Lipitor / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
DYSPNEA ON EXERTION
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ year old male with
a history of COPD on 4L NC oxygen supplementation at baseline,
also with CAD s/p CABG, CHF and CKD who presents with dyspnea on
exertion.

His felt short of breath starting this morning. He denies any
chest pain, fevers/chills, cough, abdominal pain, N/V/D. He
reports mild swelling in his ___. Per records, he also reported
that ran out of his Spiriva 3 days ago. He denies sick contacts
at home. Also denies back or joint pain. 

In the ED, initial VS were: 37.0 88 200/76 20 94.
  
Exam notable for: Diminished aeration on the left diffusely. No
wheezing, crackles. 1+ pitting edema of the left calf, with
slight overlying erythema. No tenderness to palpation. 

EKG: notable for QTc of 530. 

Labs showed: WBC 6.4, H/H 13.1/44.3, pro-BNP 4119, NA 148, HCO3
36, BUN 44, CR 2.3. D-DIMER 774. VBG INITIALLY ___. 
REPEAT
VBG 7.37/68/41, LACTATE 1.4.
  
Imaging included CXR and LLE U/S. CXR showed "Emphysema. No 
signs
of pneumonia. Prominent main pulmonary arterial contour, likely
reflects pulmonary arterial hypertension." LLE U/S showed no
evidence of deep venous thrombosis in the left lower extremity
veins.

No consults were requested. 

Patient received:  
___ 15:55 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 15:55 IH Ipratropium Bromide Neb 1 NEB 
___ 17:49 IH Albuterol 0.083% Neb Soln 1 NEB
___ 17:49 IH Ipratropium Bromide Neb 1 NEB 
___ 18:56 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 18:56 IH Ipratropium Bromide Neb 1 NEB  
___ 18:56 PO PredniSONE 60 mg 
___ 20:15 PO Rosuvastatin Calcium 40 mg  
___ 20:15 PO/NG Allopurinol ___ mg  
___ 20:15 PO/NG Aspirin 81 mg   
___ 20:15 PO/NG Gabapentin 100 mg   
___ 20:15 PO Isosorbide Mononitrate (Extended Release) 30
mg   
___ 20:15 PO/NG Lisinopril 2.5 mg   
___ 20:15 PO Metoprolol Succinate XL 100 mg   
___ 20:27 PO/NG Torsemide 60 mg   
___ 23:14 IV Magnesium Sulfate (2gm ordered)
___ 23:14 IV Furosemide 20mg  
 
Transfer VS were: 98.7 64 150/75 15 94% 5L NC. 
  
On arrival to the floor, patient reports the history above. He
feels that his breathing is improved and continues to deny chest
pain.
 
Past Medical History:
Opioid Use Disorder  
CAD s/p CABG 3v in ___ @ ___ (A1C 6.2 ___  
HTN  
HFpEF ___ EF 50%)  
CKD stage IV  
POLYCYTHEMIA ___  
GOUT  
OA  
COPD PFTs in ___  
CHRONIC HEPATITIS C  
 
Social History:
___
Family History:
Family history of scleroderma in his mother, per
records. 
 
Physical Exam:
ADMISSION:  
VS: 98.0 PO 180 / 89 66 14 94% on 5L  
GENERAL: well-appearing, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: non-distended, non-tender in all quadrants, no
rebound/guarding 
EXTREMITIES: 1+ pedal edema   
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no rashes  

DISCHARGE:
___ 0737 Temp: 98.1 PO BP: 145/79 L Lying HR: 74 RR: 16 O2
sat: 93% O2 delivery: 2l FSBG: 192 
GENERAL: well-appearing, NAD  
HEENT: JVP within normal limits
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: non-distended, non-tender in all quadrants, no
rebound/guarding 
EXTREMITIES: trace pedal edema   
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused 
 
Pertinent Results:
ADMISSION: 
___ 06:10PM BLOOD WBC-6.4 RBC-4.69 Hgb-13.1* Hct-44.3 
MCV-95 MCH-27.9 MCHC-29.6* RDW-14.1 RDWSD-48.0* Plt ___
___ 06:10PM BLOOD Neuts-56.4 ___ Monos-9.9 Eos-4.8 
Baso-0.6 Im ___ AbsNeut-3.63 AbsLymp-1.80 AbsMono-0.64 
AbsEos-0.31 AbsBaso-0.04
___ 07:00AM BLOOD ___ PTT-30.0 ___
___ 06:10PM BLOOD Glucose-74 UreaN-44* Creat-2.3* Na-148* 
K-4.0 Cl-99 HCO3-36* AnGap-13
___ 06:10PM BLOOD CK-MB-4 cTropnT-<0.01 proBNP-4119*
___ 06:10PM BLOOD Calcium-9.2 Phos-3.2 Mg-1.8
___ 06:10PM BLOOD D-Dimer-774*
___ 07:06AM BLOOD RheuFac-<10 ___
___ 06:11PM BLOOD ___ pO2-35* pCO2-85* pH-7.28* 
calTCO2-42* Base XS-9
___ 06:11PM BLOOD Lactate-1.4

DISCHARGE: 
___ 07:26AM BLOOD WBC-13.7* RBC-4.23* Hgb-12.0* Hct-38.7* 
MCV-92 MCH-28.4 MCHC-31.0* RDW-14.4 RDWSD-47.4* Plt ___
___ 07:26AM BLOOD Glucose-177* UreaN-61* Creat-2.4* Na-139 
K-3.9 Cl-95* HCO3-29 AnGap-15
___ 07:26AM BLOOD Calcium-9.3 Phos-2.2* Mg-2.3

REPORTS: 

___ LUNG SCAN: Low likelihood ratio for acute pulmonary 
embolism.

___ TTE:
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. There is an inferobasal left ventricular aneurysm. 
Overall left ventricular systolic function is normal (LVEF = 
60%). However, the inferior wall is hypokinetic. The right 
ventricular free wall is hypertrophied. Right ventricular 
chamber size is normal with severe global free wall hypokinesis. 
There is abnormal septal motion/position. The aortic root is 
mildly dilated at the sinus level. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.  

___ CXR:
Emphysema.  No signs of pneumonia.  Prominent main pulmonary 
arterial contour, likely reflects pulmonary arterial 
hypertension. 

___ ___ US: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.
 
Brief Hospital Course:
___ year old male with a history of COPD on 4L NC oxygen 
supplementation at baseline, CAD s/p CABG ___, HFpEF, and CKD 
who presents with dyspnea on exertion. 

#DYSPNEA: 
#COPD EXACERBATION:
#ACUTE ON CHRONIC HFpEF EXACERBATION: 
The patient presented with dyspnea on exertion and appeared 
volume overloaded with wheezing. Thought to be HFpEF 
exacerbation with component of COPD exacerbation. He was given a 
5 day burst of prednisone and diuresed with IV Lasix to 
euvolemia. He improved to 2L oxygen requirement which was better 
than his previous baseline of 5L. Echocardiogram was performed 
with EF 60% and RV free wall hypokinesis. Given unclear home 
oxygen requirement, pulmonary was consulted. He was thought to 
have likely pulmonary hypertension due to COPD and heart 
failure. He was discharged on torsemide 80 mg daily for 
outpatient follow-up including follow-up with the pulmonary 
clinic. 

#Hx Opioid dependence: 
History of opioid dependence with multiple past hospital 
admissions related to this. The patient reports that pain is no 
longer a problem for him and that he takes occasional methadone 
"when he feels like he needs it". Unclear where he is getting 
methadone. Utox positive for methadone while in-house, but 
patient reports taking one dose prior to admission. Recommend 
outpatient follow-up for opioid dependence with repeat Utox. 
Continued lidocaine patch, gabapentin, and acetaminophen.

#CKD: Patient with fluctuating baseline creatinine, with 
presentation at baseline.

#DM: Previously on insulin but lost >100lbs per patient report 
and now diet-controlled. He had several measurements of high 
blood glucose while in-house, likely secondary to steroid 
administration. 

#HTN: Continued home Lisinopril 2.5mg daily

#CAD s/p CABG: CABG at ___, ___ (LIMA to LAD, SVG to OM, SVG 
to RCA)
Continued home aspirin, rosuvastatin, metoprolol, isosorbide 
mononitrate.

TRANSITIONAL ISSUES:
-Discharged on torsemide 80 mg daily, adjust in clinic as 
necessary
-Repeat electrolytes in clinic
-Recommend pulmonary follow-up with consideration of further 
pulmonary hypertension workup including right heart cath if 
indicated and repeat echocardiogram
-Discharge with ___ combination for optimization of COPD 
regimen
-Recommend outpatient follow-up for opioid dependence with 
repeat Utox.
-Check blood glucose and A1c in clinic.
-Follow-up pending studies including Scl Ab and urine 
buprenorphine. 

#CODE: Full (presumed)
#DISCHARGE WEIGHT: 89.6 kg

>30 minutes spent coordinating discharge
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB, WHEEZE 
3. Aspirin 81 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Metoprolol Succinate XL 100 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Allopurinol ___ mg PO DAILY 
9. Gabapentin 100 mg PO TID 
10. Vitamin D 1000 UNIT PO DAILY 
11. Torsemide 60 mg PO DAILY 

 
Discharge Medications:
1.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY  
2.  Torsemide 80 mg PO DAILY 
RX *torsemide 20 mg 4 tablet(s) by mouth once a day Disp #*120 
Tablet Refills:*0 
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB, WHEEZE  
4.  Allopurinol ___ mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Gabapentin 100 mg PO TID  
7.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
8.  Lisinopril 2.5 mg PO DAILY  
9.  Metoprolol Succinate XL 100 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Rosuvastatin Calcium 20 mg PO QPM  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
#COPD
#Acute on chronic diastolic heart failure
#CKD
#DM
#Coronary Artery Disease s/p CABG

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ for 
shortness of breath.

While you were here:
-We took some extra fluid off with an IV "water pill"
-We treated you for a COPD exacerbation with nebulizers
-You began to feel better before discharge

When you go home:
-Please follow-up with the below doctors
-___ continue all medications as directed
-Please weigh yourself every morning, call your doctor if your 
weight fluctuates more than 3 lbs

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___